US04923501
Then, 3.6 g of 2-mercapto-6-methylbenzoic acid, 4.7 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine and 3.5 g of unhydrous potassium carbonate were dissolved in 20 ml of dimethylformamide, and then the mixture was stirred at from 110 to 120° C. for one hour. The reaction solution was poured into a large amount of water, and concentrated hydrochloric acid was added thereto. Then, the mixture was extracted with chloroform. The chloroform layer was washed with water and dried, and then the solvent was distilled off under reduced pressure. The crude crystals were purified by column chromatography by using a developing solvent of hexane/ethyl acetate and recrystallized from ethyl acetate to obtain 0.8 g of 2-[(4,6-dimethoxypyrimidin-2-yl)thio]-6-methylbenzoic acid as white powder. Melting point: 131°-132° C.

reactant | 2-mercapto-6-methylbenzoic acid | 3.6 g | SC1=C(C(=O)O)C(=CC=C1)C | C8H8O2S
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 4.7 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[(4,6-dimethoxypyrimidin-2-yl)thio]-6-methylbenzoic acid | 0.8 g | COC1=NC(=NC(=C1)OC)SC1=C(C(=O)O)C(=CC=C1)C | C14H14N2O4S
